US04716172
a. Ethyl-4-(2-pyridyl)-2-benzoylbutyrate
A sample of 120 g (0.62 mole) of ethyl benzoylacetate was added to 1.44 g (0.062 mole) of sodium and 32.8 g (0.31 mole) of 2-vinylpyridine added under an atmosphere of nitrogen. The mixture was heated with mechanical stirring on the steam bath for 17 h. After cooling the reaction mixture to room temperature, 100 mL of 3N hydrochloric acid was added, and the aqueous mixture washed with ether. The hydrochloric acid layer was made basic with 10% potassium carbonate solution, and extracted with ether. The ether layer was washed with brine, dried (MgSO4), and the ether evaporated in vacuo to give 83.4 g (90% yield) of the crude title compound as a red oil.

reactant | ethyl benzoylacetate | 0.62 mole, 120 g | C(C1=CC=CC=C1)(=O)CC(=O)OCC | C11H12O3
reactant | sodium | 0.062 mole, 1.44 g | [Na] | Na
reactant | 2-vinylpyridine | 0.31 mole, 32.8 g | C(=C)C1=NC=CC=C1 | C7H7N
solvent | hydrochloric acid | 3N, 100 mL | Cl | ClH
product | Ethyl-4-(2-pyridyl)-2-benzoylbutyrate | 83.4 g, 90% yield | C(C)OC(C(CCC1=NC=CC=C1)C(C1=CC=CC=C1)=O)=O | C18H19NO3
